US04762881
N-BOC-m-Benzoyl-L-Phenylalanine
A suspension of 2.175 g of m-benzoyl-L-phenylalanine in 25 ml of water and 1.15 g of triethylamine was treated with 3.35 g of BOC-ON in 40 ml of acetone. After 3 h, acetone was removed and the aqueous residue was extracted three times with ether (discarded). The aqueous solution was acidified to pH 2 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried (MgSO4) and stripped. The residue was triturated for 7 days with petroleum ether. The waxy insoluble solid was triturated for 14 days with an additional portion of petroleum ether and finally for 7 days with a third portion. The resulting white solid weighed 1.786 g after vacuum drying, [α]D25 +22.2±0.9°, C=0.86 g/100 ml ethanol. Anal.: Calcd. for C21H23NO5 :C, 68.28; H, 6.28; N, 3.79. Found: C, 68.01; H, 6.49; N, 3.68.

reactant | m-benzoyl-L-phenylalanine | 2.175 g | C(C1=CC=CC=C1)(=O)C=1C=C(C[C@H](N)C(=O)O)C=CC1 | C16H15NO3
reactant | triethylamine | 1.15 g | C(C)N(CC)CC | C6H15N
reactant | BOC-ON | 3.35 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 25 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N-BOC-m-Benzoyl-L-Phenylalanine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C(=O)O | C21H23NO5
